US03947582
To a solution of 5.0 gm. of 2-(2-fluoro-4-methylphenyl)benzoxazole in 200 cc. of carbon tetrachloride is added 4.5 gm. of N-bromosuccinimide and 50 mg. of dibenzoyl peroxide. The mixture is refluxed for 2 hours, filtered to remove succinimide and concentrated in vacuo. The residue is recrystallized from toluene to give 2-(4-bromomethyl-2-fluorophenyl)benzoxazole, m.p. 170°-173°C.

reactant | 2-(2-fluoro-4-methylphenyl)benzoxazole | FC1=C(C=CC(=C1)C)C=1OC2=C(N1)C=CC=C2 | C14H10FNO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(4-bromomethyl-2-fluorophenyl)benzoxazole | BrCC1=CC(=C(C=C1)C=1OC2=C(N1)C=CC=C2)F | C14H9BrFNO
